* Spice automatic export. Generated by Caneda.

* Spice netlist.

Rvoltmeternet1 3 net1 0
VV1 2 0 DC 5 AC 5 0 SIN( 0 5 1k 0.0 0.0 )
LL1 2 3 100e-3 L nt=1 m=1.0 scale=1.0 temp=26.5 dtemp=1.0 tc1=0.0 tc2=0.0 ic=0 
CC3 3 0 100e-9 C m=1.0 scale=1.0 temp=26.5 dtemp=1.0 tc1=0.0 tc2=0.0 ic=0 
CC2 3 0 100e-6 C m=1.0 scale=1.0 temp=26.5 dtemp=1.0 tc1=0.0 tc2=0.0 ic=0 
CC1 2 0 100e-6 C m=1.0 scale=1.0 temp=26.5 dtemp=1.0 tc1=0.0 tc2=0.0 ic=0 

* Device models.
.model L L
.model C C

* Spice directives.
.ac dec 100 1 1k
